US08791255B2
The product is prepared according to the procedure described in example 5, using 220 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate, 157 mg of 8-chloro-2H-benzo[b][1,4]oxazine (which can be prepared according to WO 2008/100463) and 214 mg of N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride in a mixture of 135 μl of pyridine and 3.5 ml of N,N-dimethylformamide. 140 mg of 2-[2-(8-chloro-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-2-oxoethyl]-6-(morpholin-4-yl)pyrimidin-4(3 H)-one are obtained in the form of a white powder, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 220 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 8-chloro-2H-benzo[b][1,4]oxazine | 157 mg | ClC1=CC=CC2=C1OCC=N2 | C8H6ClNO
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 214 mg | Cl.CN(CCCN=C=NCC)C
solvent | pyridine | 135 μl | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 3.5 ml | CN(C=O)C | C3H7NO
product | 2-[2-(8-chloro-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-2-oxoethyl]-6-(morpholin-4-yl)pyrimidin-4(3 H)-one | 140 mg | ClC1=CC=CC=2N(CCOC21)C(CC2=NC(=CC(N2)=O)N2CCOCC2)=O | C18H19ClN4O4
